US07872014B2
3-fluoro-4,5-dihydroxybenzaldehyde (0.9 g; 5.7 mmol) and cesium carbonate (4.6 g; 14.2 mmol) were stirred in DMF (15 ml) at room temperature for 15 min. 1,2 Dibromoethane (638 μl; 7.4 mmol) was added and reaction mixture was stirred at 80° C. for 2.5 h and then diluted with dichloromethane (100 ml). The mixture was washed with water (2×50 ml), 10% aqueous citric acid (50 ml), brine (50 ml), dried over sodium sulfate and evaporated to dryness to yield 8-fluoro-2,3-dihydro-1,4-benzodioxine-6-carbaldehyde (0.9 g; 87% yield). 1H NMR (400 MHz, CD3OD) δ 9.74 (d, 1H), 7.25 (m, 2H), 4.37 (m, 4H).

reactant | 3-fluoro-4,5-dihydroxybenzaldehyde | 5.7 mmol, 0.9 g | FC=1C=C(C=O)C=C(C1O)O | C7H5FO3
reactant | cesium carbonate | 14.2 mmol, 4.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,2 Dibromoethane | 7.4 mmol, 638 μl | BrCCBr | C2H4Br2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 8-fluoro-2,3-dihydro-1,4-benzodioxine-6-carbaldehyde | 0.9 g, 87% yield | FC1=CC(=CC2=C1OCCO2)C=O | C9H7FO3
